US08071586B2
C) (R)-2-Benzyl-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester
(R)-2-Benzyl-4-benzyloxy-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester (795 mg, 1.94 mmol) was dissolved in methanol (21 ml) and stirred for 16 h at 70° C. under a hydrogen pressure of 8 bar. After cooling insoluble material was removed by filtration and the filtrate concentrated, to afford the title compound (486 mg, 82%). White foam, MS (ISP)=305.3 (M+H)+.

reactant | (R)-2-Benzyl-4-benzyloxy-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.94 mmol, 795 mg | C(C)(C)(C)OC(=O)N1[C@@H](CN(C(CC1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C24H30N2O4
solvent | methanol | 21 ml | CO | CH4O
product | (R)-2-Benzyl-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 486 mg, 82% | C(C)(C)(C)OC(=O)N1[C@@H](CNC(CC1)=O)CC1=CC=CC=C1 | C17H24N2O3
